US07625922B2
Ethyl 4-chloro-2-nitropyridin-3-yl-methyl-carbamate
Ethyl 4-chloro-2-nitropyridin-3-yl-carbamate (350 mg, 1.4 mmol) was dissolved in acetone and potassium carbonate (280 mg, 2 mmol) was added followed by dimethyl sulfate (161 μL, 1.7 mmol). The reaction mixture was heated to reflux for 5 hours, cooled at room temperature, diluted with water and extracted with DCM. The organic layer was dried and evaporated to afford the title compound (340 mg, 93%). 1H-NMR (δ, ppm, DMSO-d6): 1.02+1.25 (t+t, rotamers, 3H, CH3,Et), 3.14+3.19 (s+s, rotamers, 3H, NCH3), 4.05+4.14 (q+q, rotamers, 2H, CH2,Et), 8.21 (d, 1H, HPy,5, J=5.70 Hz), 8.60 (d, 1H, HPy,6, J=5.20 Hz). LC-MS (m/z): 259 (M+H, 100).

reactant | Ethyl 4-chloro-2-nitropyridin-3-yl-carbamate | 1.4 mmol, 350 mg | ClC1=C(C(=NC=C1)[N+](=O)[O-])NC(OCC)=O | C8H8ClN3O4
reactant | potassium carbonate | 2 mmol, 280 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfate | 1.7 mmol, 161 μL | S(=O)(=O)(OC)OC | C2H6O4S
solvent | acetone | CC(=O)C | C3H6O
solvent | water | O | H2O
product | Ethyl 4-chloro-2-nitropyridin-3-yl-methyl-carbamate | 340 mg, 93% | ClC1=C(C(=NC=C1)[N+](=O)[O-])N(C(OCC)=O)C | C9H10ClN3O4
